US09029560B2
Preparation of (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)urea (F20)
To 1-[(2-isopropyl-5-methyl-phenyl)carbamothioyl]-3-[3-[4-[1-[4-(trifluoromethoxy)phenyl]-1,2,4-triazol-3-yl]phenyl]propyl]urea (F21) (0.110 g, 0.184 mmol) in a 25 mL vial equipped with a stir bar and Vigreux column was added sodium acetate (0.0600 g, 0.735 mmol), ethanol (2 mL) and methyl bromoacetate (0.0250 mL, 0.276 mmol). The reaction was heated to 70° C. overnight. The reaction was cooled and diluted with dichloromethane. The layers were separated and the aqueous layer was extracted with dichloromethane. The organic layers were poured through a phase separator and concentrated. Purification by flash column chromatography using 0-30% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent provided a solid which was dried overnight at 50° C. in vacuo to afford the title compound as a white solid (0.0791 g, 68%).

reactant | 1-[(2-isopropyl-5-methyl-phenyl)carbamothioyl]-3-[3-[4-[1-[4-(trifluoromethoxy)phenyl]-1,2,4-triazol-3-yl]phenyl]propyl]urea | 0.184 mmol, 0.110 g | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)NC(=O)NCCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C30H31F3N6O2S
reactant | sodium acetate | 0.735 mmol, 0.0600 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | methyl bromoacetate | 0.276 mmol, 0.0250 mL | BrCC(=O)OC | C3H5BrO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)urea | 0.0791 g, 68% | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(=O)NCCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C32H31F3N6O3S
